US06110914
4'-(N-2-Aminoethyl)aminospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine]
A solution of 74 mg (0.295 mmol) of 4'-chlorospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] in 10 mL of ethylenediamine was heated to reflux under a nitrogen atmosphere and stirred for 4 days. Upon cooling to ambient temperature, the solvent was removed in vacuo. The residue was dissolved in 20 mL of saturated aqueous sodium carbonate and extracted with chloroform (3×25 mL). The combined organic extract was dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title compound as a dark oil, 80 mg (100%): electrospray MS (m/z, relative intensity) 275 ([MH]+).

reactant | 4'-chlorospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | 0.295 mmol, 74 mg | ClC1=C2C(=NC=C1)OC1(C2)CN2CCC1CC2 | C13H15ClN2O
reactant | ethylenediamine | 10 mL | C(CN)N | C2H8N2
product | 4'-(N-2-Aminoethyl)aminospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | NCCNC1=C2C(=NC=C1)OC1(C2)CN2CCC1CC2 | C15H22N4O
